US04071681
2,2,2-Trichloroethyl 7β-(3,5-di-tert.-butyl-4-hydroxybenzylideneamino)-3-methyl-2-cephem-4-carboxylate
A solution of 2.14 g. of 2,2,2-trichloroethyl 7β-amino-3-methyl-2-cephem-4-carboxylate and 1.3 g. of 3,5-di-tert.-butyl-4-hydroxybenzaldehyde in 60 ml. of benzene was refluxed for 1.5 hours in a vessel equipped with a water separator. After evaporation of the solvent, a small amount of cyclohexane was added to the residue. Insolubles were filtered off, and the filtrate was purified by a dry silica gel column chromatography (4.5 × 15 cm, eluent; ethyl acetate-cyclohexane, 1 : 10) to give the desired product.

reactant | 2,2,2-trichloroethyl 7β-amino-3-methyl-2-cephem-4-carboxylate | N[C@H]1[C@@H]2N(C(C(=CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C10H11Cl3N2O3S
reactant | 3,5-di-tert.-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2,2,2-Trichloroethyl 7β-(3,5-di-tert.-butyl-4-hydroxybenzylideneamino)-3-methyl-2-cephem-4-carboxylate | C(C)(C)(C)C=1C=C(C=N[C@H]2[C@@H]3N(C(C(=CS3)C)C(=O)OCC(Cl)(Cl)Cl)C2=O)C=C(C1O)C(C)(C)C | C25H31Cl3N2O4S
